US04366154
Step A Preparation of 8-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-8-azabicyclo [3.2.1]octan-3-one (a compound II)
To a flask equipped with a nitrogen gas inlet, addition funnel and magnetic stirrer is charged 2.7 g. (0.025 mol) of 2,6-cycloheptadienone and 90 ml. of methanol. The solution is stirred and 5.63 g. (0.025 mol) of 2-(4-fluorophenyl)-1,3-dioxolane-2-propanamine in 90 ml. of methanol is added over 30 minutes. After the addition, the reaction is allowed to stir for 20 hrs. The solution is then concentrated in vacuo to afford an oil. Chromatography on 500 g. of silica gel gives, after evaporation of solvent, 8-{3-[2-(4-fluorophenyl)1,3-dioxolan-2-yl]-propyl}-8-azabicyclo-[3.2.1]octan-3-one as an oil.

reactant | 2,6-cycloheptadienone | 0.025 mol | C1(C=CCCC=C1)=O | C7H8O
reactant | 2-(4-fluorophenyl)-1,3-dioxolane-2-propanamine | 0.025 mol | FC1=CC=C(C=C1)C1(OCCO1)CCCN | C12H16FNO2
solvent | methanol | CO | CH4O
product | 8-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-8-azabicyclo [3.2.1]octan-3-one | FC1=CC=C(C=C1)C1(OCCO1)CCCN1C2CC(CC1CC2)=O | C19H24FNO3
